US07687502B2
4,6-Dichloro-pyrido[3,2-d]pyrimidine (100 mg; 0.503 mmol) and 76 mg (0.503 mmol) of thiazolo[5,4-b]pyridin-2-yl-amine in 0.3 mol of phenol were heated at 140° C. for 2 hours with stirring. Ethyl acetate was added to the reaction solution and the resulting solid was purified by a thin layer silica gel column chromatography (chloroform:methanol=10:1) to give 78 mg (yield: 45%) of (6-chloro-pyrido[3,2-d]pyrimidin-4-yl)-thiazolo[5,4-b]pyridin-2-yl-amine as a yellow solid.

reactant | 4,6-Dichloro-pyrido[3,2-d]pyrimidine | 0.503 mmol, 100 mg | ClC=1C2=C(N=CN1)C=CC(=N2)Cl | C7H3Cl2N3
reactant | thiazolo[5,4-b]pyridin-2-yl-amine | 0.503 mmol, 76 mg | N1=C(SC2=NC=CC=C21)N | C6H5N3S
reactant | phenol | 0.3 mol | C1(=CC=CC=C1)O | C6H6O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (6-chloro-pyrido[3,2-d]pyrimidin-4-yl)-thiazolo[5,4-b]pyridin-2-yl-amine | 78 mg, yield: 45% | ClC=1C=CC=2N=CN=C(C2N1)NC=1SC2=NC=CC=C2N1 | C13H7ClN6S
